US08067625B2
1. Synthesis of methyl 7-(3,3,3-trifluoropropoxy)heptanoate
3,3,3-Trifluoropropanol (10 ml, 110 mmol), methyl 7-hydroxyheptanoate (133 mmol, 1.2 eq), triphenylphosphine (35 g, 133 mmol, 1.2 eq) are initially introduced in 37 ml of THF in a round-bottomed flask and introduced into an ultrasound bath for a few minutes in order to mix the substances. During the exposure to ultrasound, DIAD (26.5 ml, 133 mmol, 1.2 eq) is very slowly added dropwise (temperature rises), and the reaction mixture is left under ultrasound for 15 min. A TLC sample is taken and subsequently left in the ultrasound bath for a further 2 hours.

reactant | 3,3,3-Trifluoropropanol | 110 mmol, 10 ml | FC(CCO)(F)F | C3H5F3O
reactant | methyl 7-hydroxyheptanoate | 133 mmol, 1.2 eq | OCCCCCCC(=O)OC | C8H16O3
reactant | triphenylphosphine | 133 mmol, 35 g, 1.2 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 133 mmol, 26.5 ml, 1.2 eq | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | THF | 37 ml | C1CCOC1 | C4H8O
product | methyl 7-(3,3,3-trifluoropropoxy)heptanoate | FC(CCOCCCCCCC(=O)OC)(F)F | C11H19F3O3
